US08309542B2
(c) tert. Butyl (2S,4R)-2-aminomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate
290.0 mg (0.75 mmol) tert. Butyl (2S,4R)-2-azidomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate are dissolved in a mixture of 4 ml THF and 0.4 ml of water and combined with 0.3 g (1.1 mmol) triphenylphosphine. The reaction mixture is stirred at RT for 16 hours. Then the mixture is concentrated i. vac., combined with water and dil. Sodium hydroxide solution and extracted three times with DCM. The combined organic phases are dried on sodium sulphate, filtered and evaporated down i. vac. The crude product is purified by flash chromatography on silica gel (eluant DCM/methanol 9:1→1:1).

reactant | tert. Butyl (2S,4R)-2-azidomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate | 0.75 mmol, 290.0 mg | N(=[N+]=[N-])C[C@H]1N(C[C@@H](C1)NC(=O)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C15H20ClN5O3S
reactant | triphenylphosphine | 1.1 mmol, 0.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | water | 0.4 ml | O | H2O
product | tert. Butyl (2S,4R)-2-aminomethyl-4-[(5-chloro-thiophene-2-carbonyl)-amino]-pyrrolidine-1-carboxylate | NC[C@H]1N(C[C@@H](C1)NC(=O)C=1SC(=CC1)Cl)C(=O)OC(C)(C)C | C15H22ClN3O3S
